US04013774
Preparation of 2,3-dihydro-2,2-dimethyl-7-benzofuranyl Chloroformate
A 7.9 g. (0.1 mol) sample of pyridine was added dropwise to a solution of 16.4 g. (0.1 mol) 2,3-dihydro-2,2-dimethyl-7-benzofuranol and 9.9 g. (0.1 mol) phosgene in 100 ml. benzene at about 25° C. The reaction mixture was stirred at 25° C for 2 hours, filtered and evaporated under reduced pressure. The solid residue was washed with hexane and dried to give the product, m.p. 85°-87.5° C. Elemental analysis for C11H11O3Cl showed:

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2,3-dihydro-2,2-dimethyl-7-benzofuranol | 0.1 mol | CC1(OC2=C(C1)C=CC=C2O)C | C10H12O2
reactant | phosgene | 0.1 mol | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,3-dihydro-2,2-dimethyl-7-benzofuranyl Chloroformate | ClC(=O)OC1=CC=CC=2CC(OC21)(C)C | C11H11ClO3
